US08048905B2
2-Fluoro-5-iodo-3-nitro-benzoic acid (2.0 g, 6.43 mmol) and SOCl2 (918 mg, 7.72 mmol) were added to 20 mL MeOH, and the mixture was refluxed for two hours and then cooled to room temperature. Solvent was evaporated under reduced pressure and the residue was dissolved in EtOAa. The EtOAc solution was washed with brine, dried over NaSO4, filtered and concentrated under reduced pressure to give 2.0 g (96%) of 2-fluoro-5-iodo-3-nitro-benzoic acid methyl ester.

reactant | 2-Fluoro-5-iodo-3-nitro-benzoic acid | 6.43 mmol, 2.0 g | FC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])I | C7H3FINO4
reactant | SOCl2 | 7.72 mmol, 918 mg | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 20 mL | CO | CH4O
product | 2-fluoro-5-iodo-3-nitro-benzoic acid methyl ester | 2.0 g, 96% | COC(C1=C(C(=CC(=C1)I)[N+](=O)[O-])F)=O | C8H5FINO4
